Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever, pain
 
Major Surgical or Invasive Procedure:
ERCP with stent placement

 
History of Present Illness:
___ h/o cirrhosis ___ Caroli syndrome, who presents to our ED as 
a transfer from OSH, w/ recent fever to 104, cough, dyspnea, 
diffuse abdominal pain, general malaise, headache. Patient has 
had a fever since ___ (five days ago). Fever has been 
variable, going up and down over the past few days. Saw PCP 
recently and was treated with a course of Tamiflu for suspected 
influenza.  Since starting tamiflu has had diarrhea, with ___ 
BMs yesterday. Has had no appetite for a week. Very poor PO 
intake. Today went to outside hospital ED, was ill-appearing 
with multiple laboratory abnormalities including 
thrombocytopenia to 18, acute renal failure, and they were 
initially concerned for DIC. At OSH, received solumedrol (due to 
meningitis in ddx given his headache), CTX 2 g, vanc, Zosyn, 
acyclovir. BP stable en route here, received 4L IVF en route to 
___ ED.  
  
In the ED inital vitals were: 97.8 111 116/76 24 96% 4L  
Pt received 4 L NS in total between OSH and here as of ___.
-pCXR: limited AP w/ poor insp effort, but no obvious 
infiltrates.
-Labs in ED: ARF, elevated LFTs/bili, tcp, no schistocytes, 
INCREASED fibrinogen.
-ABG: pH7.40 pCO2 22 pO2 95 HCO3 14 primary anion gap metabolic 
acidosis 
-Foley: 800 cc UOP
-R IJ, sterile, placed in ER, OK to use
-scvO2: 80 
-Discussed plan w/ ERCP: given h/o Caroli, high suspicion for 
cholangitis until proven otherwise, agree w/ non-con CT, though 
will be limited. please re-page if becomes more unstable, e.g. 
starting pressors, or if remarkable results on CT. will plan for 
ERCP first in AM, if crashing, can do ICU ERCP o/n. 
-CT torso: cirrhotic liver w/ large cysts c/w ___'s disease 
characterized on ___ MR; splenomegaly, patent umbilical vein, 
and small amt of ascites; R lung base atelectasis; can't r/o 
superimposed infection.
- unlikely to be DIC, given no schistocytes, not decreased 
fibrinogen. his markedly worsened tcp is likely due to sepsis, 
on top of liver disease
-VS on transfer: T 98.7 BP 132/75 HR 73 pOx 98 4L 
  
On arrival to the ICU, patient's initial vital signs were 97.9  
96 ___ 96% 4L  CVP 5. Patient awake, alert, conversant, 
in pain and in moderate respiratory distress.  Family at 
bedside.  
  
Review of systems:  
(+) Per HPI  
(-) Denies sinus tenderness, rhinorrhea or congestion. Denies 
chest pain, chest pressure, palpitations. Denies dysuria, 
frequency, or urgency. Denies arthralgias or myalgias. Denies 
rashes or skin changes.  
 
Past Medical History:
___ Syndrome
Cirrhosis
Inguinal hernia repair in ___.
  
NKDA
 
Social History:
___
Family History:
He denies any history of kidney or liver disease in the family.
No colitis in the family.  His father died with "tumors" that
ruptured.  He does not know what type of cancer they were.  His
father was also diagnosed with diabetes right before he died. 
His
mother has coronary artery disease and is ___.  Two brothers with
hip replacements and back problems.
  
 
Physical Exam:
Admission Physical Exam:  
97.9  96 ___ 96% 4L  CVP 5  
General: Alert, oriented 
HEENT: Sclera anicteric, MM dry, oropharynx clear  
Neck: supple, JVP not elevated, no LAD, no tenderness to 
palpation of neck.  negative Kernig and Brudzinski. FROM of 
neck.   
Lungs: Pt using some accessory  muscles for breathing, rare 
crackles scattered  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly protuberant, umbilical herniation, 
hepatomegaly with 3cm liver palpable, no splenomegaly 
appreciated on exam, tenderness to palpation diffusely, mild 
guarding, no overt peritoneal signs, negative ___ sign
GU: foley in place
Skin: no spider angiomas appreciated; no bruising or rash
Ext: warm, well perfused, 2+ distal pedal pulses, no clubbing, 
cyanosis or edema  
Neuro: PERRL, EOMI, strength of upper and lower extremities 
intact

 
Pertinent Results:
___ 09:00PM BLOOD WBC-10.7# RBC-3.91* Hgb-13.2* Hct-37.2* 
MCV-95 MCH-33.8* MCHC-35.5* RDW-14.9 Plt Ct-31*#
___ 09:00PM BLOOD Neuts-70 Bands-6* Lymphs-4* Monos-15* 
Eos-0 Baso-0 ___ Metas-3* Myelos-1* Promyel-1* Other-0
___ 03:36AM BLOOD WBC-8.8 RBC-3.59* Hgb-11.6* Hct-34.1* 
MCV-95 MCH-32.3* MCHC-34.0 RDW-15.1 Plt Ct-23*
___ 03:36AM BLOOD Neuts-87* Bands-2 Lymphs-4* Monos-6 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 05:53AM BLOOD WBC-8.1 RBC-3.49* Hgb-11.2* Hct-32.8* 
MCV-94 MCH-32.2* MCHC-34.2 RDW-15.4 Plt Ct-35*
___ 04:22AM BLOOD Neuts-89* Bands-0 Lymphs-4* Monos-5 Eos-0 
Baso-0 Atyps-1* Metas-1* Myelos-0 NRBC-1*
___ 04:22AM BLOOD WBC-14.0* RBC-3.97* Hgb-12.9* Hct-38.1* 
MCV-96 MCH-32.6* MCHC-34.0 RDW-15.3 Plt Ct-57*
___ 04:00AM BLOOD Neuts-92* Bands-0 Lymphs-6* Monos-2 Eos-0 
Baso-0 ___ Myelos-0
___ 03:38AM BLOOD WBC-16.0* RBC-3.58* Hgb-11.7* Hct-33.4* 
MCV-93 MCH-32.6* MCHC-34.9 RDW-15.4 Plt Ct-50*
___ 04:00AM BLOOD WBC-17.5* RBC-3.57* Hgb-11.7* Hct-33.7* 
MCV-94 MCH-32.7* MCHC-34.6 RDW-15.4 Plt Ct-59*
___ 09:00PM BLOOD ___ PTT-30.8 ___
___ 04:00AM BLOOD ___ PTT-33.3 ___
___ 09:08PM BLOOD ___
___ 09:00PM BLOOD Glucose-192* UreaN-119* Creat-4.1*# 
Na-137 K-3.6 Cl-105 HCO3-15* AnGap-21*
___ 05:45PM BLOOD Glucose-179* UreaN-82* Creat-1.9* Na-142 
K-4.0 Cl-114* HCO3-17* AnGap-15
___ 04:00AM BLOOD Glucose-118* UreaN-39* Creat-1.0 Na-140 
K-4.0 Cl-112* HCO3-19* AnGap-13
___ 09:00PM BLOOD ALT-189* AST-128* LD(___)-340* 
AlkPhos-119 TotBili-3.6* DirBili-3.2* IndBili-0.4
___ 03:36AM BLOOD ALT-156* AST-104* LD(___)-322* 
AlkPhos-107 TotBili-3.0*
___ 05:53AM BLOOD ALT-131* AST-79* LD(___)-283* 
AlkPhos-131* TotBili-2.3*
___ 04:22AM BLOOD ALT-135* AST-86* AlkPhos-188* 
TotBili-2.4*
___ 03:38AM BLOOD ALT-136* AST-113* LD(___)-308* 
AlkPhos-222* TotBili-3.5*
___ 04:00AM BLOOD ALT-122* AST-85* LD(___)-321* 
AlkPhos-260* TotBili-3.6*
___ 09:00PM BLOOD Lipase-40
___ 05:53AM BLOOD Lipase-79*
___ 09:00PM BLOOD Albumin-2.8* Calcium-7.4* Phos-2.8 Mg-2.2 
UricAcd-7.9*
___ 03:38AM BLOOD Hapto-67
___ 09:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:06PM BLOOD ___ pO2-108* pCO2-22* pH-7.39 
calTCO2-14* Base XS--9 Comment-GREEN TOP
___ 08:57PM BLOOD Type-MIX pO2-72* pCO2-33* pH-7.35 
calTCO2-19* Base XS--6 Comment-GREEN TOP
___ 09:06PM BLOOD Lactate-2.6*
___ 02:35PM BLOOD Lactate-1.5

OSH and ED Labs
pH 7.40 pCO2 22 pO2 95 HCO3 ___
Fibrinogen 768 
Na 137  K 3.6  Cl 105  Bicarb 15  Bun 119  Cr 4.1  Gluc 192
Ca 7.4  Mg 2.2  P2.8  
Serum Tox Neg
ALT: 189 AP: 119 Tbili: 3.6 Alb: 2.8 
AST: 128 LDH: 340 Dbili: 3.2 Lip: 40 
UricA:7.9 
___: 15.0  PTT: 30.8  INR: 1.4 
WBC 10.7  Hct 37.2  Hgb 13.2  Plt 31
N:79 Band:0 ___ M:15 E:0 Bas:0 Promyel: 1 Other: 1 
UA: 1.011  pH 5.5  Bact MOD WBC 7 RBC 11  Prt 30 Blood Sm
  

MICRO: 
Direct Influenza Antigen (___): Negative 

Bloood Culture (___): NGTD

Urine Culture (___): No growth

___ 10:41 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 
FECAL CULTURE (Pending): 
CAMPYLOBACTER CULTURE (Pending): 
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

___ 4:18 pm THROAT FOR STREP
R/O Beta Strep Group A (Pending): 

Images:  

CT Torso w/out contrast (___): 
1. cirrhotic liver w/ large cysts c/w Caroli's disease 
characterized on ___ MR.
2. splenomegaly, patent umbilical vein, and small amt of 
ascites.
3. R lung base atelectasis; can't r/o superimposed infection.

CXR (___): R IJ in place in the cavo-atrial junction 
CXR (___): The lung volumes are low with pronounced elevation of 
the right hemidiaphragm with bibasilar atelectasis, likely worse 
on the right than the left. There is no pneumothorax. The heart 
is of normal size. 
CXR (___): FINDINGS: In comparison with the study of ___, the 
right IJ line has been removed. Again they are extremely low 
lung volumes with atelectatic changes at the bases. No evidence 
of congestive failure or acute pneumonia on this quite limited 
study. 
CXR (___): Lung volumes are quite low. The right lung base is 
particularly elevated, most likely due to right upper quadrant 
mass effect or fluid and/or right subpulmonic pleural effusion. 
Heart is mildly enlarged. Mediastinal veins are engorged, but I 
doubt that there is pulmonary edema. No pneumothorax. 
CXR (___): The current study continues to redemonstrate low 
lung volumes. There is no evidence of pneumothorax. There is 
minimal amount of pleural effusion demonstrated. The lungs are 
essentially clear with no definitive evidence of new 
consolidation to suggest aspiration process. 

RUQ U/S (___): 1. Distended gallbladder, also seen on the 
___ examination. No gallbladder wall thickening. 
Pericholecystic fluid and mild ascites. 
2. No sonographic ___ sign. 
3. If there is continued concern for cholecystitis, a HIDA scan 
can be 
obtained for further evaluation. 

HIDA (___): Heterogenous tracer uptake into the hepatic 
parenchyma and minimal amount of tracer excretion in the small 
bowel signifies underlying liver disease or obstruction. The 
findings are compatible with cholestasis. Given the poor 
excretion, the biliary system cannot be evaluated. 
  
EKG: sinus tachycardia at 101bpm; TWI III.  nl axis.  EKG 
unchanged from ___ 

MCRP ___:
1. No MR evidence for a hepatic abscess. 
2. The two cystic lesions in the superior aspect of the right 
lobe of the liver which previously homogenously hyperintense on 
T2-weighted images now contain air indicative of continuity with 
the biliary tree given the recent ERCP.  
3. The distended gallbladder contains gas, suggesting that air 
can travel from through the sphincterotomy and biliary tree. The 
gallbladder is unchanged in appearance since a prior study of 
___. 
4. Splenomegaly, increased since the prior study. 
5. Moderate ascites. 
.
FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 
   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

 
Brief Hospital Course:
___ h/o cirrhosis ___ ___ syndrome who presented with fever, 
cough, diffuse abdominal pain, concerning for cholangitis.  Pt 
initially admitted to ___ and had ERCP with stent placement on 
___.

# Cholangitis:
Initially, Pt presented with fever to 104, WBC 10.7 (no bands), 
upper quadrant abdominal pain.  Considering abdominal pain and 
hx of Caroli disease, most likely source is cholangitis.  
Outside hospital cultures growing Rauoltella Planticola (an 
enteric GNR previously in the klebsiella family) that is 
pan-sensitive. Flu negative.  s/p ERCP w/ stent placement on day 
of admission. Patient with increasing WBC since ___.  No 
evidence of infection on CXR.  UA negative.  Patient did have 
one day of diarrhea, but was c. diff negative.  HIDA scan unable 
to give any other definitive answer.  MRCP performed on ___ to 
evaluate for intrahepatic abscess, which pt’s can be predisposed 
to with Caroli’s disease, was negative for abcess.  No fevers 
since ___.  Patient was continued on Meropenem, and 
transitioned to oral regimen of Cipro/flagyl per ID 
recommendations once afebrile for 3 days. 
.
# Blepharitis: HSV possibly from immunocomprimise from sepsis.  
Per optho, no eye involvement.  Pt received Bacitracin/Polymyxin 
B Sulfate Opht drops. Continue  Acyclovir 400mg q8hrs x10 days. 
Continue artificial tears.  
. 

# Acute Renal Failure: Resolved from peak Cr of 4 now to Cr 1.0. 
Likely prerenal in addition to poor nutrition.  Pt was fluid 
resuscitated and Cr resolved.  Pt has had good urine output. 
. 
# Cirrhosis ___ ___ Disease: Pt with increased bilirubin 
during stay, discussed with Dr. ___, and thought 
to be secondary to infection and cholestasis.  Pt was restarted 
on ursodiol while treating underlying infection.  He also 
developed ascites with ___ edema after aggressive hydration in 
the FICU.  He was started on diuretics with good response and 
will continue on current doses to be followed by Dr ___ 
week.
. 
# Thrombocytopenia: Platelets initially 31K from most recent 
measurement of 86 in ___ on admission.  Likely secondary to 
sepsis (marrow suppression) in the setting of underlying splenic 
sequestration ___ cirrhosis.  Trended up appropiately, >100 on 
discharge.  
.
#SOB: Persistent SOB, atelectasis and R hemidiaphrgam elevation 
on CXR, no evidence of pneumonia and no clinical suspicion of 
this. oxygenating well, no signs of PE. Symptoms are most likely 
related to atelectasis, increased ascites and hemidiaphragm 
elevation.  Pt was given incentive spirometer and encouraged to 
use it 10 times an hr, with some improvement, while diuresing as 
above.  On discharge, pt was feeling much better.
.

# Anemia: Hct 33.7 (stable from yesterday) from b/l 42. Current 
hct consistent with hospital range.  Likely anemia from bone 
marrow suppression secondary to sepsis upon arrival.  Remained 
stable, with no evidence of bleeding. Haptoglobin wnl. Unlikely 
hemolysis.  Single positive guiac stool.

 
Medications on Admission:
Medications (per medical record):  
ursodiol 600 mg BID
vitamin C
vitamin D
glucosamine
loratadine    
  

 
Discharge Medications:
1. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
3. polyvinyl alcohol-povidone 1.4-0.6 % Dropperette Sig: ___ 
Drops Ophthalmic PRN (as needed) as needed for dry eyes.  
4. acyclovir 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
5. ursodiol 300 mg Capsule Sig: Two (2) Capsule PO BID (2 times 
a day).  
6. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 14 days.
Disp:*42 Tablet(s)* Refills:*0*
7. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 14 days.
Disp:*28 Tablet(s)* Refills:*0*
8. codeine-guaifenesin ___ mg/5 mL Syrup Sig: ___ MLs PO Q6H 
(every 6 hours) as needed for cough./wheeze.  
9. spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
10. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
12. Cepacol Sore Throat ___ mg Lozenge Sig: One (1)  Mucous 
membrane twice a day as needed for sore throat.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis
Cirrhosis due to Caroli Syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
___ were admitted with a severe infection of the biliary tree 
(cholangitis) and had a stent placed to improve the flow of bile 
as well as antibiotic treatment.  ___ will continue treatment 
for this infection for 2 more weeks, when ___ will see the 
infectious disease doctors.
___ also had increased swelling and ascites and were started on 
diurectics.  Dr. ___ continue to follow your ascites and 
will make any adjustments to the diurectics as needed.
 
Followup Instructions:
___